US06472386B1
Synthesis of N,N′-bis[2-[2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl]ethyl]homopiperazine
4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxy-phenyl)thiazole (250mg) and homopiperazine (30mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxy-phenyl)thiazole | 250mg | CS(=O)(=O)OCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H19NO6S2
reactant | homopiperazine | 30mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[2-[2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl]ethyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)CCN1CCN(CCC1)CCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C33H42N4O6S2
